US05840732
ii) Synthesis of 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)-butyl]-5-butylidenehydantoin
To a solution of 1.00 g (3.29 mmol) of 3-[4-(imidazo-[1,2-a]pyridin-5-ylthio)butyl]hydantoin and 0.30 ml (3.29 mmol) of n-butyraldehyde in 10 ml of ethanol, 0.05 ml (0.6 mmol) of pyrrolidine was added, followed by refluxing for 16 hours. After the reaction mixture was cooled, the solvent was distilled off. The residue was dissolved in chloroform, washed with water and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, ethyl acetate/ethanol=10/1→chloroform/methanol=10/1) to yield 0.43 g (36.5%, orange-yellow oily substance) of the desired product.

reactant | 3-[4-(imidazo-[1,2-a]pyridin-5-ylthio)butyl]hydantoin | 3.29 mmol, 1.00 g | N=1C=CN2C1C=CC=C2SCCCCN2C(NCC2=O)=O | C14H16N4O2S
reactant | n-butyraldehyde | 3.29 mmol, 0.30 ml | C(CCC)=O | C4H8O
reactant | pyrrolidine | 0.6 mmol, 0.05 ml | N1CCCC1 | C4H9N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)-butyl]-5-butylidenehydantoin | N=1C=CN2C1C=CC=C2SCCCCN2C(NC(C2=O)=CCCC)=O | C18H22N4O2S
